US09168259B2
A solution of 4.0 g (12.8 mmol) 2,6-dichloro-N-(3,5-difluorobenzyl)-4-methyl-pyridine-3-carboxylic acid amide in DMF (30 ml) was treated with 2.6 g (19.2 mmol) K2CO3 and 1.2 ml (16.0 mmol) ethanethiol, followed by stirring in a closed vessel at RT for 16 h. Then water (35 ml) was added and the mixture was extracted with EtOAc (2×70 ml). The combined organic layers were washed with water, a 2M aq. NaOH sol. and brine, dried over MgSO4 and concentrated in vacuo. Purification of the residue by CC (hexane/EtOAc 3:1) provided 3.3 g (9.7 mmol, 76%) 6-chloro-2-ethylsulfanyl-N-[(3-fluorophenyl)-methyl]-4-methyl-pyridine-3-carboxylic acid amide.

reactant | 2,6-dichloro-N-(3,5-difluorobenzyl)-4-methyl-pyridine-3-carboxylic acid amide | 12.8 mmol, 4.0 g | ClC1=NC(=CC(=C1C(=O)NCC1=CC(=CC(=C1)F)F)C)Cl | C14H10Cl2F2N2O
reactant | K2CO3 | 19.2 mmol, 2.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethanethiol | 16.0 mmol, 1.2 ml | C(C)S | C2H6S
reactant | water | 35 ml | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 6-chloro-2-ethylsulfanyl-N-[(3-fluorophenyl)-methyl]-4-methyl-pyridine-3-carboxylic acid amide | 9.7 mmol, 3.3 g, 76% | ClC1=CC(=C(C(=N1)SCC)C(=O)NCC1=CC(=CC=C1)F)C | C16H16ClFN2OS
